US05824689
Jineol of 5.0 mg was dissolved in 0.5 ml of acetic acid anhydride and 0.5 ml of pyridine, and then the solution was agitated at room temperature for 9 hours. After the solution was diluted with ethyl acetate, it was washed with sodium dicarbonate solution and brine. The solution was dried with anhydrous magnesium sulfate anhydride. After the residue was removed, the solution was purified by silicagel chromatography to give 5.9 mg of 3,8-diacetoxy quinoline with 78% yield.

reactant | Jineol | C1=CC=2C=C(C=NC2C(=C1)O)O | C9H7NO2
solvent | acetic acid anhydride | 0.5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3,8-diacetoxy quinoline | 5.9 mg, 78% yield | C(C)(=O)OC=1C=NC2=C(C=CC=C2C1)OC(C)=O | C13H11NO4
